US05801170
4-(1,2,4-Triazol-1-yl)aniline
4-(1,2,4-Triazol-1-yl)nitrobenzene (0.5 g, 3 mmol) and Pd/C (500 mg) in ethanol (50 ml) were hydrogenated at rtp for 3 days. The suspension was filtered through celite, evaporated under reduced pressure to afford a white solid (418 mg, 87%).

reactant | 4-(1,2,4-Triazol-1-yl)nitrobenzene | 3 mmol, 0.5 g | N1(N=CN=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6N4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | 4-(1,2,4-Triazol-1-yl)aniline | 418 mg, 87% | N1(N=CN=C1)C1=CC=C(N)C=C1 | C8H8N4
